US05834463
(3aR*,10aS*)-9-Benzyl-7-chloro-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
Using 9-benzyl-7-chloro-2,3,9,10a-tetrahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one, the titled compound was synthesized in substantially the same manner as in Working Example 26 in a yield of 53%, m.p. 160°-163° C. (ethylacetate-hexane).

reactant | 9-benzyl-7-chloro-2,3,9,10a-tetrahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | C(C1=CC=CC=C1)N1C2=C(N=C3C(C1=O)CCC3)C=CC(=C2)Cl | C19H17ClN2O
solvent | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
product | (3aR*,10aS*)-9-Benzyl-7-chloro-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | yield of 53% | C(C1=CC=CC=C1)N1C2=C(N[C@H]3[C@@H](C1=O)CCC3)C=CC(=C2)Cl | C19H19ClN2O
